US06008243
According to the procedure described in Example 1(a) for the preparation of 3-biphenyl-4-yl-2,5-dimethoxy-tetrahydrofuran, 2,5-dihydro-2,5-dimethoxy-3-(4-(pyridin-4-yl)phenyl)furan (300 mg, 1.06 mmol) was hydrogenated in MeOH after 6 hours to furnish 300 mg (100%) of 2,5-dimethoxy-3-(4-(pyridin-4-yl)phenyl)tetrahydrofuran as a yellow oil, which was a mixture of diastereomers by NMR, and which was used without further purification. 1H NMR (CDCl3): δ 8.68 (bs, 2H), 7.76-7.36(m, 6H), 5.34-4.94 (m, 2H), 3.72-3.20 (m, 7H), 2.75 (ddd, 0.15H, minor isomer, J=5.9, 10.0, 13.7 Hz), 2.35 (ddd, 0.74H, major isomer, J=5.6, 12.8, 12.8 Hz), 2.20 (dd, 0.0.19H, minor isomer, J=6.9, 12.0 Hz), 2.12 (ddd, 0.16H, minor isomer, J=3.7, 5.9, 13.7 Hz); Anal. Calculated for C17H19NO3.0.2 H2O: C, 70.66; H, 6.77; N, 4.85. Found: C, 70.49; H, 6.74; N, 4.76.

reactant | 3-biphenyl-4-yl-2,5-dimethoxy-tetrahydrofuran | C1(=CC=C(C=C1)C1C(OC(C1)OC)OC)C1=CC=CC=C1 | C18H20O3
reactant | 2,5-dihydro-2,5-dimethoxy-3-(4-(pyridin-4-yl)phenyl)furan | 1.06 mmol, 300 mg | COC1OC(C=C1C1=CC=C(C=C1)C1=CC=NC=C1)OC | C17H17NO3
solvent | MeOH | CO | CH4O
product | 2,5-dimethoxy-3-(4-(pyridin-4-yl)phenyl)tetrahydrofuran | 300 mg, 100% | COC1OC(CC1C1=CC=C(C=C1)C1=CC=NC=C1)OC | C17H19NO3
